US08633207B2
To a stirred solution of 2-bromo-5-fluoropyridine (237 mg, 2.11 mmol) in anhydrous diethyl ether (7 mL) at −78° C. was added dropwise 1.7 M tert-butyl lithium/pentane (4 mL, 6.8 mmol). The brown mixture was stirred at −78° C. for 20 min, then ethyl 4-chloroquinazoline-2-carboxylate (500 mg, 2.11 mmol) in 3:1 diethyl ether/DCM (4 mL) was added to the mixture over 40 min. The resulting mixture was stirred at −78° C. for 1 h and then at −40° C. for 4 h. Then 10% aq ammonium chloride was added and the mixture was extracted three times with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 0-50% EtOAc/hexane to afford (4-chloroquinazolin-2-yl)(5-fluoropyridin-2-yl)methanone (150 mg, 25%). 1H NMR (300 MHz, CDCl3) δ 8.50 (d, J=3 Hz, 1H), 8.37-8.28 (m, 2H), 8.17 (d, J=8.4 Hz, 1H), 8.04 (t, J=8.4 Hz, 1H), 7.83 (t, J=8.4 Hz, 1H), 7.63 (td, J=3 Hz, J=8.4 Hz, 1H); LC-MS (ESI) m/z 288 (M+H)+.

reactant | 2-bromo-5-fluoropyridine | 2.11 mmol, 237 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | tert-butyl lithium pentane | 6.8 mmol, 1.7 M, 4 mL | C(C)(C)(C)[Li].CCCCC
reactant | ethyl 4-chloroquinazoline-2-carboxylate | 2.11 mmol, 500 mg | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | diethyl ether DCM | 4 mL | C(C)OCC.C(Cl)Cl
product | (4-chloroquinazolin-2-yl)(5-fluoropyridin-2-yl)methanone | 150 mg, 25% | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=NC=C(C=C1)F | C14H7ClFN3O
